Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hyperglycemia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
This is a ___ y/o F with h/o DMT2 and idiopathic systolic CHF 
presenting from ___ with dizziness, fatigue, hyperglycemia, 
and hypotension at clinic. Went to ___ for routine 
appointment where BG found to be >500 with SBPs ___. Patient 
reports 1 day of fatigue and not taking her insulin. She reports 
that she has been eating and drinking normally. She denies 
polyuria or polydipsia. She had a left groin abscess drained at 
an OSH 3 days ago but reports no further drainage or pain around 
the site. No cough, shortness of breath, orthopnea, chest pain, 
abdominal pain, nausea, vomiting, dysuria, or headache. She has 
chronic diarrhea, which is not worse than baseline.  
 In the ED, initial vs were: 96.0 80 87/55 22 95% RA. On arrival 
to the ED, she had a blood sugar greater than 600 but with no 
DKA on labs (no gap, Bicarb ok, urine without ketones). She was 
initially started on an insulin drip at 9 units per hour and 
then when the labs came back without evidence of DKA she was 
given 50U insulin SQ. However, her next blood sugar check went 
back up greater than 300 so she was restarted on an insulin drip 
at 10 units and overlapped with her home dose of SQ insulin, 
which is 150 units of U500. For the presenting hypotension, she 
also received 4L of NS and 500 cc of LR while in the ED and her 
blood pressure improved to 105/62 before transfer. Was given 60 
mEq of PO potassium repletion for a K of 3.0. She arrived on the 
floor with an additional liter of NS with 40 mEq potssium mixed 
in. Was also given Magnesium 2 gm IV and neutraphos 2 packets in 
the ED. Blood sugar on transfer was 280.  
 She did have several measurements of a lactate 3.4-3.9, which 
did not improve with hydration and hyperglycemia management 
above. Because of this, she was given vancomycin and unasyn to 
cover for a polymicrobial infection in the known groin abscess.  

 
 Review of sytems:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, 
constipation or abdominal pain. No dysuria. Denies arthralgias 
or myalgias. Ten point review of systems is otherwise negative.  


 
Past Medical History:
1. Idiopathic dilated cardiomyopathy (recent EF 45%, up from  
 ___. Baseline LBBB.  
 2. Poorly controlled type 2 diabetes (recent A1c 13%)  
 3. NASH with stage 3 cirrhosis on biopsy in ___. Followed by 
Dr. ___ - recent US without evidence of HCC.  
 4. Morbid obesity.  
 5. Obstructive sleep apnea on CPAP at home.  
 6. Hypertension.  
 7. Hyperlipidemia.  
 8. Hypothyroidism  
 9. OCD, followed at ___  

 
Social History:
___
Family History:
Father had heart disease with question of an enlarged heart and 
sudden cardiac death at age ___. Mother with congestive heart 
failure, multiple aunts and uncles with coronary artery disease. 
 

 
Physical Exam:
ADMISSION EXAM:
Vitals- 98.2, 115/67, 81, 20, 96% RA  
 General- Alert, oriented x 3, in no acute distress  
 HEENT- Sclera anicteric, MMM, oropharynx clear  
 Neck- supple, JVP difficult to discern given body habitus, no 
LAD  
 Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV- Regular rate and rhythm, normal S1, S2, no murmurs, rubs, 
gallops  
 Abdomen- soft, non-tender, obese, no rebound tenderness or 
guarding, no organomegaly  
 GU- foley  
 Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro- CNs2-12 intact, motor function normal in b/l UE and ___  

DISCHARGE EXAM:
Vitals- 98.3 97.8 126/62 (112-125/50-83) 74 (72-89) 22 97% CPAP 
(recorded while asleep)
GU- 2cm vertical clean and dry incision on left side of mons 
that is not erythematous, nonswollen, nontender with underlying 
fibrous scar.   
Otherwise unchanged from admission exam  

 
Pertinent Results:
ADMISSION LABS

___ 11:30AM BLOOD WBC-7.2 RBC-4.44 Hgb-12.5 Hct-36.2 
MCV-81* MCH-28.2 MCHC-34.6 RDW-15.2 Plt ___
___ 11:30AM BLOOD Neuts-75.5* ___ Monos-5.0 Eos-0.9 
Baso-0.4
___ 11:30AM BLOOD Glucose-659* UreaN-10 Creat-1.3* Na-127* 
K-3.2* Cl-84* HCO3-31 AnGap-15
___ 11:30AM BLOOD ALT-12 AST-16 AlkPhos-151* TotBili-0.8
___ 11:30AM BLOOD Lipase-13
___ 11:30AM BLOOD Albumin-3.5 Calcium-8.6 Phos-3.0 Mg-1.4*
___ 11:39AM BLOOD ___ pO2-52* pCO2-53* pH-7.39 
calTCO2-33* Base XS-5 Comment-GREEN TOP
___ 11:39AM BLOOD Glucose-GREATER TH Lactate-3.4*
___ 11:45AM URINE Color-Straw Appear-Hazy Sp ___
___ 11:45AM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 11:45AM URINE RBC-<1 WBC-7* Bacteri-NONE Yeast-NONE 
Epi-0
___ 11:45AM URINE AmorphX-RARE

PERTINENT LABS

___ 04:58PM BLOOD Lactate-3.9*
___ 05:15PM BLOOD Lactate-3.4*
___ 10:20PM BLOOD Lactate-2.4*
___ 05:15PM BLOOD Type-ART pO2-95 pCO2-40 pH-7.48* 
calTCO2-31* Base XS-5

DISCHARGE LABS

___ 08:25AM BLOOD WBC-5.9 RBC-3.94* Hgb-11.4* Hct-31.6* 
MCV-80* MCH-28.9 MCHC-36.1* RDW-15.3 Plt ___
___ 08:25AM BLOOD Glucose-136* UreaN-10 Creat-1.0 Na-142 
K-3.2* Cl-103 HCO3-26 AnGap-16
___ 08:25AM BLOOD Calcium-8.2* Phos-2.9 Mg-1.6

MICRO
___ 9:20 pm ABSCESS      Source: L groin abscess. 
      Fluid should not be sent in swab transport media.  Submit 
fluids in a
      capped syringe (no needle), red top tube, or sterile cup. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).

IMAGING
CXR ___ IMPRESSION:  Trace interstitial edema.  No 
consolidation worrisome for pneumonia. 

 
Brief Hospital Course:
___ yo F with h/o poorly controlled T2DM and non-ischemic 
cardiomyopathy who presented from clinic with hypotension and 
elevated blood glucose, found to have been noncompliant with 
insulin.

ACTIVE DIAGNOSES:
  
# Type II Diabetes Mellitus: The patient presented from ___ 
appointment where her sugar was found to be above 600. She 
admitted to skipping a few doses of insulin prior to her 
appointment. She notes forgetting about 1 in 4 doses of insulin 
routinely, sometimes due to leaving the house without her 
insulin. Her labs did not show DKA, however, her blood glucose 
was so high that she required an insulin drip in the ED to get 
better control of this. She was transitioned to subcutaneous 
insulin U500, which she requires at home. She stayed 1 night in 
the hospital and morning sugars were under much better control. 
She was given K+ repletion, in addition to aggressive IVF (see 
below). A ___ consult recommended 250 Units of insulin TID 
with meals, plus sliding scale (50 Units of U500 TID). The pt 
also met with a DM educator. The patient was discharged with 
___ and PCP ___.  
  
# Hypotension: SBP at ___ was in the ___. Her hypotension was 
likely from glucosuria. The patient was treated with 4.5L of IVF 
while in ED, then maintenance fluids overnight. She had 1 
further bout of hypotension in the morning with SBP 88 on 
standing, but pressures improved after a 500cc bolus. An 
infectious etiology was considered given hypotension and 
hyperglycemia, although she did not have any localizing 
symptoms, no leukocytosis, normal CXR, and her lactate improved 
with IVF and glucose control. Her recent I&D site appeared 
un-infected. She was continued on her usual antihypertensives. 
She should ___ with her PCP for BP control.  
  
# Acute kidney injury: Upon presentation to the ED she had an 
elevation in creatinine to 1.3, pre-renal given the hypotension 
and glucosuria. Cr improved with IVF and was 1.0 on day of 
discharge.
  
# Elevated lactate, without acidosis: There was no leukocytosis 
or fevers and her recent I&D site looked un-infected. Lactate 
elevation was thought to be secondary to hypotension discussed 
above. It trended down with IVF. 

# Recently drained mons abscess: The patient had I&D done at ___ 
___ 3 days prior to presentation. The incision 
looked uninfected. A swab of the area was done in the ED, 
however given clinical appearance, antibiotics were not 
continued.  

CHRONIC ISSUES:  
# Chronic systolic heart failure, EF 45%: Non ischemic per 
report. No signs of decompensation during hospitalization. The 
pt was continued on ASA, rosuvastatin, carvedilol, lisinopril, 
torsemide.  
# h/o NASH: Also no evidence of decompensation on exam. 
Spironolactone and torsemide were continued.  
# Obstructive sleep apnea: continued on CPAP  
# Hypothyroidism: continued on levothyroxine  
# Chronic diarrhea: continued on loperamide 

TRANSITIONAL ISSUES:
-Insulin dosing has been adjusted to make it easy to remember: 
50 Units of U500 (equal to 250 Units regular insulin) three 
times daily with meals, plus sliding scale.
-Encourage insulin use
-Blood cultures pending at time of discharge  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ipratropium Bromide MDI 2 PUFF IH BID:PRN SOB or wheezing 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Rosuvastatin Calcium 40 mg PO DAILY 
6. MetFORMIN XR (Glucophage XR) 2250 mg PO DAILY 
7. Vitamin D 800 UNIT PO DAILY 
8. Loperamide 2 mg PO DAILY:PRN diarrhea 
9. Calcium Carbonate 500 mg PO DAILY 
10. U500 60 Units Breakfast
U500 50 Units Lunch
U500 40 Units Dinner
11. Aspirin 81 mg PO DAILY 
12. Carvedilol 25 mg PO BID 
13. Spironolactone 50 mg PO DAILY 
14. Torsemide 20 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Calcium Carbonate 500 mg PO DAILY 
3. Carvedilol 25 mg PO BID 
4. U500 250 Units Breakfast
U500 250 Units Lunch
U500 250 Units Dinner
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: Pt is on U500, units are entered as regular insulin 
units

5. Ipratropium Bromide MDI 2 PUFF IH BID:PRN SOB or wheezing 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Lisinopril 40 mg PO DAILY 
8. Loperamide 2 mg PO DAILY:PRN diarrhea 
9. Multivitamins 1 TAB PO DAILY 
10. Rosuvastatin Calcium 40 mg PO DAILY 
11. Spironolactone 50 mg PO DAILY 
12. Torsemide 20 mg PO DAILY 
13. Vitamin D 800 UNIT PO DAILY 
14. MetFORMIN XR (Glucophage XR) 2250 mg PO DAILY 
15. Insulin Pen Needle (insulin needles (disposable)) 32 gauge x 
___ (4mm Nano)  Miscellaneous as directed 
RX *insulin needles (disposable) [Pen Needle] 32 gauge X ___ 
Use as directed 3 times per day before meals Disp #*2 Box 
Refills:*3
16. HumaLOG KwikPen (insulin lispro) 100 unit/mL Subcutaneous 
TID:PRN sliding scale 
Take as directed by sliding scale 
RX *insulin lispro [Humalog KwikPen] 100 unit/mL 1 TID:PRN Disp 
#*2 Box Refills:*3

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
-Hyperglycemia due to insulin noncompliance
-Hypotension secondary to glucosuria causing intravascular 
volume depletion

SECONDARY
-Uncontrolled Type II Diabetes Mellitus
-Idiopathic dilated cardiomyopathy     
-Non-Alcoholic Steatohepatitis with stage 3 cirrhosis  
-Morbid obesity  
-Obstructive sleep apnea  
-Hypertension.  
-Hyperlipidemia.  
-Hypothyroidism  
-Obsessive Compulsive Disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,

___ was a pleasure to care for you during your hospitalization at 
___.

You were admitted because of high blood sugars and low blood 
pressure, due to missing your insulin doses. You were treated 
with IV fluids and insulin. It is very important for you to take 
your insulin faithfully 3 times per day, in addition to daily 
metformin to prevent future hospitalizations. The diabetes 
doctors from ___ recommend you take 50 of U500 insulin 3 
times a day PLUS a sliding scale.
 
Due to your history of heart failure, you should weigh yourself 
every morning, call MD if weight goes up more than 3 lbs.
 
Followup Instructions:
___